US07951824B2
Step 5: 4-Bromo-3,6-dimethyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide
The title compound, white solid, MS (ISP): m/e=326.1, 328.0 (M+H)+, was prepared from 4-Bromo-3,6-dimethyl-pyridine-2-carboxylic acid ethyl ester and 2-Amino-4-methylthiazole in accordance with the general method of example 1, step 5.

reactant | 4-Bromo-3,6-dimethyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1C)Br)C | C10H12BrNO2
reactant | 2-Amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
product | 4-Bromo-3,6-dimethyl-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1C)Br)C | C12H12BrN3OS
